US04547501
A slurry of 2.0 g. (0.01 mole) of 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 2) in N,N-dimethylformamide (30 ml.) was saturated with monoethylamine gas and stirred at room temperature for 2 hours. Monoethylamine gas was again bubbled through the mixture and stirring was continued for 2 hours. The precipitate was removed by filtration and washed with N,N-dimethylformamide. Recrystallization from methanol afforded 680 mg. (32% yield) 4-ethylamino-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 254°-256° C. Mass spectrum: m/e, 213 (P).

reactant | 4-chloro-[1,2,4]triazolo[4,3-a]quinoxaline | 0.01 mole | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | monoethylamine | C(C)N | C2H7N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-ethylamino-[1,2,4]triazolo[4,3-a]quinoxaline | 32% yield | C(C)NC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C11H11N5
